US04378314
cis Methyl 3-azidocyclobutane carboxylate
A solution of trans 3-carbomethoxycyclobutyl benzenesulfonate* (6.1 g, 22.6 mmol) in hexamethylphosphoramide (35 ml) was treated with sodium azide (289 g, 44.5 mmol) and stirred at 105° C. for 2.75 h. The reaction mixture was cooled to 23° C., diluted with water (350 ml) and extracted with ether (4×125 ml). The organic extracts were combined, washed with water (2×15 ml), dried over anhydrous magnesium sulfate and concentrated in vacuo to a slightly yellow liquid which was distilled under high vacuum; bp 66°-7° C. (0.6 mm); 2.8 g; 80%; ir (neat) νmax : 2100 (N3) and 1735 cm-1 (C=O); Hmr (CDCl3) δ: 40.34 (m, H-1), 3.7 (s, methyl) and 2.9-2.1 ppm (5H, 2H-2, H-3 and 2H-4).

reactant | trans 3-carbomethoxycyclobutyl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)O[C@@H]1C[C@H](C1)C(=O)OC | C12H14O5S
reactant | sodium azide | 44.5 mmol, 289 g | [N-]=[N+]=[N-].[Na+]
solvent | hexamethylphosphoramide | 35 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 350 ml | O | H2O
product | cis Methyl 3-azidocyclobutane carboxylate | N(=[N+]=[N-])[C@H]1C[C@H](C1)C(=O)OC | C6H9N3O2
